US05258529
47.50 Grams of 2,3-dichloro-1-propene were added dropwise to a mixture of 20.00 g of crotonaldehyde, 40 g of ethylene dichloride, 60 g of 3% acetic acid and 18.65 g of zinc powder at 40° C., and the resultant mixture was allowed to react at the same temperature for 5 hours. After the reaction was completed, zinc-derived insolubles were filtered off, and the resultant filtrate was subjected to separation. The organic phase was washed with a 7% sodium carbonate aqueous solution and dried over magnesium sulfate. The desiccant was filtered off, and the ethylene dichloride was distilled off under reduced pressure to give 37.15 g of 2-chloro-1,5-heptadien-4-ol; nD25 =1.471, FI-MS m/e 146(M+), 148(M+2+).

reactant | 2,3-dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
reactant | crotonaldehyde | 20.00 g | C(\C=C\C)=O | C4H6O
reactant | ethylene dichloride | 40 g | C(CCl)Cl | C2H4Cl2
catalyst | zinc | 18.65 g | [Zn] | Zn
solvent | acetic acid | 60 g | C(C)(=O)O | C2H4O2
product | 2-chloro-1,5-heptadien-4-ol | 37.15 g | ClC(=C)CC(C=CC)O | C7H11ClO
